US07030246B2
Step 1: 1-[(2S)-2-methyl-4-(phenylimino)-3,4-dihydro-1(2H)-quinolinyl]-1-ethanone.
A solution of (2S)-1-acetyl-2-methyl-2,3-dihydro-4(1H)-quinolinone (20 mg, 0.098 mmol; preparation see Tetrahedron: Asymmetry (1998), 9(7), 1137–1142), aniline (36 μl, 0.394 mmol) and a catalytic amount of p-toluene sulfonic acid monohydrate was refluxed overnight in toluene (4 ml) containing molcular sieve 3 Å (0.9 g). The resulting mixture was filtered, concentrated and purified on silica (ethyl acetate:heptane 1:2) to obtain the sub-titled product (22.8 mg, 0.082 mmol).

reactant | (2S)-1-acetyl-2-methyl-2,3-dihydro-4(1H)-quinolinone | C(C)(=O)N1[C@H](CC(C2=CC=CC=C12)=O)C | C12H13NO2
reactant | aniline | 0.394 mmol, 36 μl | NC1=CC=CC=C1 | C6H7N
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(2S)-2-methyl-4-(phenylimino)-3,4-dihydro-1(2H)-quinolinyl]-1-ethanone | 0.082 mmol, 22.8 mg | C[C@@H]1N(C2=CC=CC=C2C(C1)=NC1=CC=CC=C1)C(C)=O | C18H18N2O
